US07615555B2
To a solution of hydrazine hydrate (10 ml) in ethanol (100 ml) at 0° C. was added a solution of (benzyloxy)acetyl chloride (6.4 ml) in THF (40 ml) by syringe pump over 30 minutes. The reaction mixture was allowed to warm to room temperature and stirred for 18 hours. The ethanol was removed under reduced pressure and the remaining aqueous mixture extracted with dichloromethane (3×100 ml). The combined organic extracts were washed with aqueous K2CO3 (100 ml) then brine (100 ml) and dried (MgSO4). Concentration under reduced pressure gave 2-(benzyloxy)acetohydrazide as a colourless oil that crystallized on standing (5.5 g).

reactant | hydrazine hydrate | 10 ml | O.NN
reactant | (benzyloxy)acetyl chloride | 6.4 ml | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(benzyloxy)acetohydrazide | C(C1=CC=CC=C1)OCC(=O)NN | C9H12N2O2
